US04618677
The procedure described in Example 2 was followed, using 0.8 g of 4-fluorophenyl isocyanate, 2.2 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.6 g of triethylamine and 25 ml of methylene chloride, to give 1.41 g (47% of theory) of N-(4-fluorophenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 250°-252° C.

reactant | 4-fluorophenyl isocyanate | 0.8 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 2.2 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(4-fluorophenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.41 g, 47% | Cl.Cl.FC1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C21H27ClFN3OS.2ClH/c22-18-4-2-17(3-5-18)16-26-13-11-25(12-14-26)10-1-15-28-21(27)24-20-8-6-19(23)7-9-20;;/h2-9,24,27-28H,1,10-16H2;2*1H
